Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ with past history of unprovoked DVT ___
years ago who presented to BI-P with chest pressure and 
worsening
dyspnea on exertion over the past month, found to have bilateral
PE with associated heart strain.

- In the ED, initial vitals were:
Pain ___, T 98.3, HR 80, BP 145/90, RR 16, O2 95% NC

- Exam was notable for:
General: Well-appearing middle-aged male in no acute distress.
HEENT: Normocephalic, atraumatic, PERRLA, EOMI, IMMM, ___ wnl.
Skin: No rashes
Neck: no thyromegaly, no cervical lymphadenopathy, no c-spine
tenderness.
Resp: Normal work of breathing, symmetric chest expansion, CTAB
CV: Regular rate and rhythm, normal S1/s2, no m/g/r.
Abd: Soft, nontender, nondistended
Ext: no edema, no evidence of trauma, no joint swelling or
effusion. 
Neuro: AO x3, CN2-12 grossly intact, Sensation intact to light
touch in all extremities, moving all extremities spontaneously.
Psych: Normal mood, normal mentation, linear thought process

- Labs were notable for:
OSH INR 0.94, PTT 26, Hb 16.3, Cr 1.23, Trop I 0.42
BI ED WBC 9.5, Hb 15.6, Plt 155, INR 1.2, PTT 150, Trop 0.05

- Studies were notable for:
CTA ___: 
1. Massive acute bilateral pulmonary emboli with associated 
right
heart strain. The RV LV ratio is approximately 1.6. There is
relative straightening of the intraventricular septum. I
discussed this finding with Dr. ___ prior to issuing this
report.
2. There is chronic mediastinal and bilateral hilar nodal
enlargement with scattered pleural and parenchymal nodules,
stable for several years. These findings are most consistent 
with
a benign etiology such as sarcoidosis.

CXR ___: There is no evidence of an acute cardiac or
pulmonary process.

EKG with left axis deviation, LAFB, and poor R wave progression
per cardiology.

- The patient was given:
___ 20:37 IV Heparin started at ___ u/hr

- MASCOT consulted, see vascular note in OMR

- Vitals on transfer:
T 98.0, HR 79, BP 158/88, RR 20, O2 94% 2L 

On arrival to the floor, patient reports he feels well, only
complaint is a chronic dry cough. He currently has no chest 
pain,
dyspnea, lightheadedness, dizziness. 

He reports that for the past ___ months he has had shortness of
breath that he associated with getting older and working outside
in the heat. Yesterday however he came inside, walked upstairs,
and was so winded he had to sit down. When he stood up, he felt
dizzy. He had an appointment with his cardiologist (PCP) that 
day
and when he went in, they told him his EKG was OK but that they
were worried about a clot and sent him to the ED. 

He had an unprovoked DVT (right leg) ___ years ago and was
initially treated with Rivaroxaban, then Apixaban, but had
BRBRPR, so was switched to warfarin. He had a colonoscopy at 
that
time that showed a polyp that was cauterized. He then
transitioned to baby aspirin, but has since stopped taking that.
He reports no provocation was found for the DVT but he was
concerned it may have been associated with a GNC supplement he
was taking at the time, which he has since stopped years ago. 

Currently, he denies recent surgeries or procedures, plane 
___ periods of inactivity. No family history of clots. His last
colonoscopy was ___ years ago, as above. He checks PSAs regularly
with his PCP, and they have always been normal. 
 
Past Medical History:
Hypertension
Right leg DVT
Pulmonary lymphademopathy - longstanding lymphadenopathy, was
told possible sarcoid, and at one time concern for mesothelioma
given there was asbestos at his place of work previously, but
workup negative and he is currently followed with serial imaging
by his PCP
 
___:
___
Family History:
No family history of blood clots. Father had strokes. Mother is
___ and has high blood pressures. He has 4 brothers who are all
healthy. Maternal grandfather died of aneurysm. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===================
24 HR Data (last updated ___ @ 041)
    Temp: 98.0 (Tm 98.0), BP: 158/88, HR: 79, RR: 20, O2 sat:
94%, O2 delivery: 2L  

Gen: appears well, comfortable
CV: RRR, normal s1/s2, holosystolic murmur
Pulm: clear to auscultation bilaterally, comfortable, dry cough
GI: soft, nontender, nondistended
Ext: warm, well perfused, no edema

DISCHARGE PHYSICAL EXAM:
===================
___ Temp: 98.3 PO BP: 129/86 L Lying HR: 75 RR: 18 O2
sat: 93% O2 delivery: 2L 
Gen: appears well, comfortable, in NAD, on RA now
CV: RRR, normal s1/s2, holosystolic murmur
Pulm: clear to auscultation bilaterally, comfortable, no
increased work of breathing, dry cough
GI: soft, nontender, nondistended
Ext: warm, well perfused, no edema
 
Pertinent Results:
ADMISSION LABS:
============
___ 08:30PM BLOOD WBC-9.5 RBC-5.04 Hgb-15.6 Hct-47.1 MCV-94 
MCH-31.0 MCHC-33.1 RDW-13.1 RDWSD-44.7 Plt ___
___ 08:30PM BLOOD Neuts-57.5 ___ Monos-12.1 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-5.45 AbsLymp-2.67 AbsMono-1.15* 
AbsEos-0.15 AbsBaso-0.05
___ 08:30PM BLOOD Plt ___
___ 11:30PM BLOOD ___ PTT-150* ___
___ 11:30PM BLOOD Glucose-113* UreaN-15 Creat-1.0 Na-142 
K-4.2 Cl-103 HCO3-24 AnGap-15
___ 11:30PM BLOOD ALT-33 AST-27 AlkPhos-68 TotBili-1.1
___ 11:30PM BLOOD cTropnT-0.05*
___ 04:58AM BLOOD cTropnT-0.02*
___ 04:56AM BLOOD Calcium-9.3 Phos-4.6* Mg-1.9

IMAGING:
=======
___ Echo: Moderate right ventricular dilation with basal 
hypokinesis and preservation of apical
function ___ sign) and septal flattening during 
diastole and systole c/w pressure/volume
overload of the right ventricle. Mild symmetric left ventricular 
hypertrophy with normal cavity size
and regional/global systolic function. Mild tricuspid 
regurgitation. Moderate pulmonary artery
systolic hypertension. Pulmonary artery diastolic hypertension

___ bilateral lower extremity veins:
Occlusive deep vein thrombosis within the right popliteal vein 
which extends
into one of the paired posterior tibial veins of the calf.

CTA ___: 
1. Massive acute bilateral pulmonary emboli with associated 
right
heart strain. The RV LV ratio is approximately 1.6. There is
relative straightening of the intraventricular septum. I
discussed this finding with Dr. ___ prior to issuing this
report.
2. There is chronic mediastinal and bilateral hilar nodal
enlargement with scattered pleural and parenchymal nodules,
stable for several years. These findings are most consistent 
with
a benign etiology such as sarcoidosis.

CXR ___: There is no evidence of an acute cardiac or
pulmonary process.

DISCHARGE LABS:
============
___ 04:56AM BLOOD WBC-7.3 RBC-4.71 Hgb-14.4 Hct-43.7 MCV-93 
MCH-30.6 MCHC-33.0 RDW-13.0 RDWSD-44.3 Plt ___
___ 04:56AM BLOOD ___ PTT-35.5 ___
___ 04:56AM BLOOD Glucose-113* UreaN-20 Creat-1.2 Na-143 
K-4.6 Cl-105 HCO3-28 AnGap-10
___ 04:56AM BLOOD Calcium-9.3 Phos-4.6* Mg-1.9
___ 04:56AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 04:56AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
 
Brief Hospital Course:
PATIENT SUMMARY: 
==================== 
Mr. ___ is a ___ with past history of unprovoked DVT ___ 
years ago and HTN who presented to ___ with chest 
pressure and worsening dyspnea on exertion over the past month, 
found to have bilateral PE with associated heart strain. He was 
started on a heparin gtt and seen by the MASCOT PE team. He 
remained hemodynamically stable and did not have any 
intervention. He was then transitioned to lovenox twice a day 
and then transitioned to apixaban upon discharge. He had an echo 
that showed some right heart strain and lower extremity 
ultrasounds that showed right sided popliteal vein thrombosis 
that extends into his calf vein. He remained stable and his 
symptoms resolved with treatment. Prior to discharge, he was 
able to walk up and down stairs without desaturating or feeling 
dyspneic. 

TRANSITIONAL ISSUES: 
==================== 
[] f/up pending anticardiolipin abs and beta-2-glycoprotein-1 
antibodies lab work
if positive, please transition to warfarin with goal INR ___ 
[] vascular medicine will reach out to patient to make an 
appointment 
[] Was noted to have DVT in R popliteal, though no lower 
extremity symptoms. Please follow-up if any new swelling of RLE.

- New Meds: apixaban 10 mg BID for 7 days and then 5 mg BID for 
7 days
- Stopped/Held Meds: none
- Changed Meds: none

- Incidental Findings: 
CTA chest showed chronic mediastinal and bilateral hilar nodal 
enlargement with scattered pleural and parenchymal nodules, 
stable for several years. These findings are most consistent 
with a benign etiology such as sarcoidosis. Patient states he 
knows about this finding and is followed by his primary care 
doctor for this issue. 

# CODE: Full 
# CONTACT: ___ and HCP (___)

==================== 
ACUTE ISSUES: 
==================== 
# Bilateral submassive PE
Mr. ___ presented with chest pressure and worsening dyspnea 
on exertion x1 month and acutely over the past day. He was found 
to have bilateral PE at OSH with RV strain on CTA. There was no 
clear provocation (no family history, no sedentary periods, 
surgery, and is up to date on cancer screening) but does have 
history of other unprovoked DVT ___ years ago. He was started on a 
heparin gtt and then transitioned to lovenox and then eliquis. 
He also had a TTE that showed moderate RV dilation with basal 
hypokinesis and preservation of apical function and septal 
flattening during diastole and systole c/w pressure/volume 
overload of RV. He also had moderate pulmonary artery systolic 
hypertension and pulmonary artery diastolic hypertension. He 
also had bilateral lower extremity doppler ultrasound that 
showed a right sided popliteal vein thrombosis that extended 
into his calf vein. He had 1 day of lovenox BID and then was 
discharged on apixaban 10 mg BID for 1 week and then 5 mg going 
forward. He remained hemodynamically stable. 

# Elevated troponin -- resolved
Patient had evidence of right heart strain on CTA and elevated 
troponin that peaked at 0.05 and decreased to 0.02. This is 
likely secondary to demand ischemia. He had no EKG changes and 
no chest pain once on treatment. 

CHRONIC/STABLE ISSUES:
======================
# Hypertension
- continue home losartan 100mg PO daily

# Lymphadenopathy on CTA
Patient says he has been worked up for this in the past and 
lymph nodes appear stable. He says he was worked up for 
sarcoidosis and is being monitored with his PCP. He was 
originally referred to pulmonology. The team deferred workup as 
an inpatient and ensured he has follow up with his PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
Please take 2 pills twice a day for 7 days and then 1 pill twice 
a day until you see your doctor. 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*90 Tablet Refills:*0 
2.  Apixaban 10 mg PO BID Duration: 7 Days  
3.  Losartan Potassium 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
====================
Pulmonary embolism

SECONDARY DIAGNOSIS:
====================
Hypertension
Cough

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for trouble breathing.  
 
What was done for me while I was in the hospital?  
- You had a scan of your chest that showed clots in the blood 
vessels on both sides of your lungs
- You were given a blood thinner in an IV, shot, and then oral 
pill to help with the blood clots
- You had an echo done to take a closer look at your heart
- You had an ultrasound of your legs to look for clots in the 
veins 
- You were monitored closely 

What should I do when I leave the hospital?  
You should go to all of your follow up appointments and take 
your medications as prescribed. Please take Eliquis 10 mg twice 
a day for 7 days and then 5 mg twice a day until you see your 
doctor. Please see your doctor for any concerning symptoms (see 
below).
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___